US04581168
3. Boc-Leu-Ser-Ala-OMe
40 g of H-Ser-Ala-OMe, TFA and 32.9 g of Boc-Leu-OH, H2O are dissolved in 400 ml of DMF. The product is cooled with an ice bath with magnetic stirring and 14.4 ml of NEM then 65.8 g of BOP and enough NEM to maintain the pH at 6.5-7 are added. The product is stirred for 2 hrs. at ambient temperature. After monitoring by TLC, the product is evaporated to dryness (0.1 mm--35°) and the oil obtained is dissolved in 1500 ml of chloroform, washed twice with a saturated NaCl solution, three times with 5% sulfate/potassium bisulfate, 3 times with saturated sodium bicarbonate, dried over Na2SO4, evaporated to dryness (30°--water-jet pump). The oil obtained is solidified in ether: Fraction A=29 g. A second jet B is obtained by addition of hexane, identical in TLC: B=13.7 g.

reactant | H-Ser-Ala-OMe | 40 g | N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC | C7H14N2O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-Leu-OH | 32.9 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | BOP | 65.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | H2O | O | H2O
product | Boc-Leu-Ser-Ala-OMe | N([C@@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C18H33N3O7
